US05736487
7(a) 2-Formylbenzothiazole
5.47 g of manganese dioxide were added at room temperature to a solution of 2.26 g of 2-hydroxymethylbenzothiazole in 20 ml of acetone. The resulting mixture was stirred under reflux for 5 hours, at the end of which time the temperature of the mixture was cooled to room temperature and the mixture was left to stand for 14 hours. A further 3.06 g of manganese dioxide were then added and the resulting mixture was stirred under reflux for 6 hours. At the end of this time, the reaction mixture was cooled to room temperature and then filtered. The resulting filtrate was concentrated by evaporation under reduced pressure, petroleum ether was added to the thus obtained crude crystalline solid and the mixture was filtered. The filtrate was then concentrated to about half its volume causing precipitation of a crystalline solid which was filtered off and dried in vacuo to give 432.6 mg (yield 19.3%) of the title compound as a solid having a melting point of 69° to 70° C.

reactant | 2-hydroxymethylbenzothiazole | 2.26 g | OCC=1SC2=C(N1)C=CC=C2 | C8H7NOS
solvent | acetone | 20 ml | CC(=O)C | C3H6O
catalyst | manganese dioxide | 5.47 g | [O-2].[O-2].[Mn+4]
catalyst | manganese dioxide | 3.06 g | [O-2].[O-2].[Mn+4]
product | 2-Formylbenzothiazole | 432.6 mg, yield 19.3% | C(=O)C=1SC2=C(N1)C=CC=C2 | C8H5NOS
